US06140351
To 2-methoxycarbonyl-3-chloro-4-(bromomethyl)thiophene (0.20 g, 0.74 mmol) in methylene chloride (7.5 mL) was added 1-methylpiperazine (0.095 mL, 0.86 mmol) and the mixture was stirred at ambient temperature. After 16 hours, the mixture was poured onto methylene chloride (20 mL) and washed with dilute aqueous NaHCO3, water and brine, dried over Na2SO4 and concentrated in vacuo. Purification by flash chromatography on silica gel afforded 0.085 g (40% yield) of 2-methoxycarbonyl-3-chloro-4-((4-methylpiperazin-1-yl)methyl)thiophene as a tan solid; NMR (CDCl3) 7.4 (s, 1), 3.9 (s, 3), 3.5 (s, 2), 2.3-2.7 (br m, 8), 2.2 (s, 3) ppm.

reactant | 2-methoxycarbonyl-3-chloro-4-(bromomethyl)thiophene | 0.74 mmol, 0.20 g | COC(=O)C=1SC=C(C1Cl)CBr | C7H6BrClO2S
reactant | 1-methylpiperazine | 0.86 mmol, 0.095 mL | CN1CCNCC1 | C5H12N2
solvent | methylene chloride | 7.5 mL | C(Cl)Cl | CH2Cl2
product | 2-methoxycarbonyl-3-chloro-4-((4-methylpiperazin-1-yl)methyl)thiophene | 0.085 g, 40% yield | COC(=O)C=1SC=C(C1Cl)CN1CCN(CC1)C | C12H17ClN2O2S
